datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC2=C(C=C1)[S:61](=[O:62])(=[O:72])[N:10]=[C:11]2[O-:12].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2[C:11](=[O:12])C3=C(C=CC=C3)[S:61]2(=[O:62])=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[O:72][C:61]([CH:10]([CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
"C1CC[C:21](=[O:20])C1.[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>C1CC[C-:21]([O:20][CH:10]([C:71]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:72])[N+:81](=[O:82])[O-:92])C1 10=20;20,21=21"
"C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1.[S-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1>>C[N+]1=C([C:22](=[CH:21][CH:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[O:72][C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:62](C)(C)[C:11](=[CH2:10])[O:12]C1=CC=CC=C1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C:11](=[O+:12]C2=CC=CC=C2)[Si:62](C)(C)C)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.CC(C)=[N:10]CC1=CC=CC=C1>>CC(C)=[N+:10](CC1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N2CCCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N2CCCC2)[CH:45]=[CH:46]1 10=20
"C[C:63]([NH:12][C:11](C1=CCCCC1)=[CH2:10])=[O:64].F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[C:63]([NH+:12]=[C:11](C1=CCCCC1)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)=[O:64] 10,11=10,20;12=11,12"
[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([C:20]([C:31]#[C:32][C:33]34C5C6C7C8C3[Cr-3:34]76854(C#[O+])(C#[O+])C#[O+])([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20
"CO[C-:10]([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CO[C:10]([CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1)([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C 10=20;20,21=21"
"CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:12] 10,11=10,20;12=11,12"
"C1=C[C:61]2=[C:62](C=C1)[NH:12][N:11]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[N:11]=[NH+:12][C:62]3=[C:61]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[N:12]1CC[N:62](C)[C:11]1=[NH:10].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C[N+:12]1=[C:11]([NH:10][Cl:20])[N:62](C)CC1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
